US08975398B2
3-cyclopropyl-1-methyl-5-(4-nitrophenyl)-1H-pyrazole
3-Cyclopropyl-1-(4-nitrophenyl)prop-2-yn-1-one (500 mg, 2.323 mmol) was dissolved in N,N-dimethylformamide (7.75 mL), and the solution was chilled to 0° C. Methylhydrazine (118 mg, 2.56 mmol) was added dropwise. The mixture was stirred overnight at room temperature then diluted with water (25 mL) and stirred for 45 minutes. The resulting precipitate was collected by filtration to give the title compound.

reactant | 3-Cyclopropyl-1-(4-nitrophenyl)prop-2-yn-1-one | 2.323 mmol, 500 mg | C1(CC1)C#CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H9NO3
reactant | Methylhydrazine | 2.56 mmol, 118 mg | CNN | CH6N2
solvent | N,N-dimethylformamide | 7.75 mL | CN(C=O)C | C3H7NO
solvent | water | 25 mL | O | H2O
product | 3-cyclopropyl-1-methyl-5-(4-nitrophenyl)-1H-pyrazole | C1(CC1)C1=NN(C(=C1)C1=CC=C(C=C1)[N+](=O)[O-])C | C13H13N3O2
